US06727261B2
36.2 g of ethyl 3-oxo-butyrate are added dropwise with stirring at room temperature to a solution of 7 g of sodium in 160 ml of ethanol. Thereafter, 45.1 g of (bromomethyl)-cyclopropan are added and the mixture is heated under reflux for two hours. The reaction mixture is allowed to cool down to room temperature, then it is poured on 500 ml of water and extracted three times with diethylether. After drying on anhydrous sodium sulfate the solvent is evaporated and the residue is distilled. 38.9 g of ethyl 2-acetyl-cyclopropylpropionate are obtained, b.p.=35-36° C./0.3 mbar.

reactant | ethyl 3-oxo-butyrate | 36.2 g | O=C(CC(=O)OCC)C | C6H10O3
reactant | sodium | 7 g | [Na] | Na
reactant | (bromomethyl)-cyclopropan | 45.1 g | BrCC1CC1 | C4H7Br
reactant | water | 500 ml | O | H2O
reactant | ethanol | 160 ml | C(C)O | C2H6O
product | ethyl 2-acetyl-cyclopropylpropionate | 38.9 g | C(C)(=O)C1C(C1)C(C(=O)OCC)C | C10H16O3
